US04064236
A solution of 0.1 mole of 6-amino-2-hydroxyhexanoic acid in 150 ml of anhydrous ethanol is saturated with dry hydrogen chloride gas and is stirred overnight at room temperature. The reaction mixture is then concentrated in vacuo to give ethyl 6-amino-2-hydroxyhexanoate hydrochloride.

reactant | 6-amino-2-hydroxyhexanoic acid | 0.1 mole | NCCCCC(C(=O)O)O | C6H13NO3
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 6-amino-2-hydroxyhexanoate hydrochloride | Cl.NCCCCC(C(=O)OCC)O | InChI=1S/C8H17NO3.ClH/c1-2-12-8(11)7(10)5-3-4-6-9;/h7,10H,2-6,9H2,1H3;1H
